US06054457
To a solution of 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-(4-hydroxyphenyl)benzamide (50 mg) in chloroform (3.0 ml) was added a solution of 4N hydrogen chloride in ethyl acetate (1.0 ml) and the mixture was stirred at ambient temperature for 2 hours. The resulting mixture was evaporated in vacuo and the residue was solidified with diethyl ether. Diethyl ether was removed in vacuo to give 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-(4-hydroxyphenyl)benzamide hydrochloride (40 mg).

reactant | 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-(4-hydroxyphenyl)benzamide | 50 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=CC=C(C=C3)O)C)C=C2)OC)C=CC=C1 | C30H35N3O7
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | chloroform | 3.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 1.0 ml | C(C)(=O)OCC | C4H8O2
product | 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-(4-hydroxyphenyl)benzamide hydrochloride | 40 mg | Cl.NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=CC=C(C=C3)O)C)C=C2)OC)C=CC=C1 | InChI=1S/C25H27N3O5.ClH/c1-28(18-9-11-19(29)12-10-18)25(31)17-8-13-21(23(16-17)32-2)27-24(30)20-6-3-4-7-22(20)33-15-5-14-26;/h3-4,6-13,16,29H,5,14-15,26H2,1-2H3,(H,27,30);1H
